US08420655B2
{3-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzoimidazol-2-yl]-4-[1,2,4]triazol-1-yl-phenyl}-methanol
To a sealed vial is added [3-(5-bromo-1-tert-butyl-1H-benzoimidazol-2-yl)-4-[1,2,4]triazol-1-yl-phenyl]methanol (47 mg, 0.11 mmol) in DMF (2 mL), followed by the addition of 2-aminopyrimidine-5-boronic acid pinacol ester (29 mg, 0.13 mmol) and tetrakis(triphenylphosphine)palladium(0) (13 mg, 0.011 mmol) and 2M aqueous Na2CO3 (0.25 mL, 0.5 mmol). The reaction mixture is heated under argon at 110° C. for 2 hours. The residue is diluted with EtOAc (10 mL), washed with brine (10 mL), and dried under anhydrous Na2SO4 (500 mg). The mixture is filtered and is concentrated. The residue is purified by silica gel flash chromatography with 0-10% 2M NH3 in MeOH/CH2Cl2 as the eluent. The product fractions are collected and concentrated to afford the title compound (30 mg, 62%). LCMS (ESMS): m/z 441.32 (M++1)

reactant | [3-(5-bromo-1-tert-butyl-1H-benzoimidazol-2-yl)-4-[1,2,4]triazol-1-yl-phenyl]methanol | 0.11 mmol, 47 mg | BrC1=CC2=C(N(C(=N2)C=2C=C(C=CC2N2N=CN=C2)CO)C(C)(C)C)C=C1 | C20H20BrN5O
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 0.13 mmol, 29 mg | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | Na2CO3 | 0.5 mmol, 2M, 0.25 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.011 mmol, 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {3-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzoimidazol-2-yl]-4-[1,2,4]triazol-1-yl-phenyl}-methanol | 30 mg, 62% | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C=2C=C(C=CC2N2N=CN=C2)CO)C(C)(C)C)C=C1 | C24H24N8O
